US06645970B2
(3-chloro-isoquinolin-1-yl)-acetic Acid Ethyl Ester (2.5 g, 10 mmol) is dissolved in 4N NH3/MeOH (50 ml). The solution is transferred into an autoclave and kept at 120° C. for 48 hours. After cooling to RT the solvent is removed and the resulting crude product is purified on silica gel using methylene chloride (100%)→ methylene chloride/methanol (95/5) as eluent, affording 2-(3-chloro-isoquinolin-1-yl)-acetamide as a pale yellow solid.

reactant | (3-chloro-isoquinolin-1-yl)-acetic Acid Ethyl Ester | 10 mmol, 2.5 g | C(C)OC(CC1=NC(=CC2=CC=CC=C12)Cl)=O | C13H12ClNO2
reactant | NH3 MeOH | 4N, 50 ml | N.CO
product | 2-(3-chloro-isoquinolin-1-yl)-acetamide | ClC=1N=C(C2=CC=CC=C2C1)CC(=O)N | C11H9ClN2O
